US07816537B2
(2S)-1-(2,5-Difluoro-phenyl)-2-(tetrahydro-pyran-2-yloxy)-propan-1-one
1,4-Difluorobenzene (1.8 g; 15.8 mmol) and (2S)-1-Morpholin-4-yl-2-(tetrahydro-pyran-2-yloxy)-propan-1-one (3 g; 10.5 mmol) are dissolved in dry THF (15 ml). The mixture is cooled to 0° C. and then lithium diisopropylamine (7.9 ml of a 2M solution in THF/Heptane; 15.8 mmol) is added dropwise over a period of 20 minutes. The mixture is stirred for another 2 hours at 0° C. The reaction is then quenched with a saturated ammonium chloride solution. The reaction mixture is extracted with ethyl acetate. The organic phase is washed with water and brine and then dried over magnesium sulfate. The solids are filtered off and the solvent is removed under reduced pressure. The crude product is chromatographed over silicagel (eluent:Petrol ether/Ethyl acetate 50:1 to 30:1). 1.31 g of yellow crystalline material (yield 44.8%) is obtained with a HPLC purity of 96.2%.

reactant | 1,4-Difluorobenzene | 15.8 mmol, 1.8 g | FC1=CC=C(C=C1)F | C6H4F2
reactant | (2S)-1-Morpholin-4-yl-2-(tetrahydro-pyran-2-yloxy)-propan-1-one | 10.5 mmol, 3 g | N1(CCOCC1)C([C@H](C)OC1OCCCC1)=O | C12H21NO4
reactant | lithium diisopropylamine | C(C)(C)NC(C)C.[Li]
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | THF Heptane | C1CCOC1.CCCCCCC
product | (2S)-1-(2,5-Difluoro-phenyl)-2-(tetrahydro-pyran-2-yloxy)-propan-1-one | 1.31 g, yield 44.8% | FC1=C(C=C(C=C1)F)C([C@H](C)OC1OCCCC1)=O | C14H16F2O3
